US04159273
10-(2-Hydroxypropyl)-4-oxo-6,7,8,9-tetrahydro-4H-naphtho[2,3-b]pyran-2-carboxylic acid
To a stirred solution of sodium borohydride (0.4 g) in 0.02 N aqueous sodium hydroxide (30 ml) was added dropwise a solution of 4-oxo-10-(2-oxopropyl)-6,7,8,9-tetrahydro-4H-naphtho[2,3-b]pyran-2carboxylic acid (2.3 g) in 0.02N aqueous sodium hydroxide (100 ml). The resulting solution was stirred at ambient temperature for 20 hours, then cooled in ice and acidified with dilute hydrochloric acid. The precipitate was filtered washed with water and dried giving the title compound as a white solid, mp 235°.

reactant | sodium borohydride | 0.4 g | [BH4-].[Na+]
reactant | 4-oxo-10-(2-oxopropyl)-6,7,8,9-tetrahydro-4H-naphtho[2,3-b]pyran-2carboxylic acid | 2.3 g | O=C1C2=C(OC(=C1)C(=O)O)C(=C1CCCCC1=C2)CC(C)=O | C17H16O5
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 0.02 N, 30 ml | [OH-].[Na+]
solvent | sodium hydroxide | 0.02N, 100 ml | [OH-].[Na+]
product | 10-(2-Hydroxypropyl)-4-oxo-6,7,8,9-tetrahydro-4H-naphtho[2,3-b]pyran-2-carboxylic acid | OC(CC1=C2CCCCC2=CC2=C1OC(=CC2=O)C(=O)O)C | C17H18O5
